US06815455B1
Synthesis of 4-(4-(2-benzimidazolylthio)valeroyl)morpholine (Compound 4)
0.56 g of ethyl 4-(2-benzimidazolylthio)valerate and 0.53 g of morpholine were heated at 100° C. for 20 hours. The reaction mixture was applied without treatment to a silica gel column for purification (methanol:methylene chloride=1:10), and 0.37 g of the title compound was obtained as solid (yield: 58%).

reactant | ethyl 4-(2-benzimidazolylthio)valerate | 0.56 g | N1=C(NC2=C1C=CC=C2)SC(CCC(=O)OCC)C | C14H18N2O2S
reactant | morpholine | 0.53 g | N1CCOCC1 | C4H9NO
product | 4-(4-(2-benzimidazolylthio)valeroyl)morpholine | 0.37 g | N1=C(NC2=C1C=CC=C2)SC(CCC(=O)N2CCOCC2)C | C16H21N3O2S
